US04628045
A mixture of 500 mg of Gln-Pro-Glu-Asn, 0.7 ml of acetyl choride, 0.5 ml of pyridine and 10 ml of tetrahydrofuran is kept at 20° for 12 hours. The mixture is evaporated, the residue is purified by means of TLC to yield Ac-Gln-Pro-Glu-Asn.

reactant | Gln-Pro-Glu-Asn | 500 mg | N[C@@H](CCC(N)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC(N)=O)C(=O)O)CCC1 | C19H30N6O9
reactant | acetyl choride | 0.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ac-Gln-Pro-Glu-Asn | N([C@@H](CCC(N)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC(N)=O)C(=O)O)CCC1)C(=O)C | C21H32N6O10
